US05212189
CDI (0.63 g, 3.9 mmoles) is added to a solution of 2-[[3-[1-(acetylhydroxyamino)ethyl]-2-chlorophenyl]amino]benzoic acid hydrazide (1.4 g, 3.9 mmoles) and triethylamine (0.81 g, 8.1 mmoles,) in 25 mL of THF at 0° C. under an argon atmosphere. The reaction mixture is stirred at 0° C. for 30 minutes under Ar, and then at room temperature overnight. The reaction mixture is partitioned between 50 mL of 1.0 N HCl and 50 mL of EtOAc. The organic layer is washed with 100 mL of 1.0 N HCl, 100 mL of water, and 100 mL of brine. Drying over MgSO4 and evaporation of the solvent gives an off white solid. Flash chromatography over silica gel in EtOAc gives 0.27 g (18%) of N-[1-[3-[[2-(4,5-dihydro-5-oxo-1,3,4-oxadiazol-2-yl) phenyl]amino]-2-chlorophenyl]ethyl] -N-hydroxyacetamide; m.p. 186°-189° C. dec.

reactant | CDI | 3.9 mmoles, 0.63 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-[[3-[1-(acetylhydroxyamino)ethyl]-2-chlorophenyl]amino]benzoic acid hydrazide | 3.9 mmoles, 1.4 g | C(C)(=O)N(C(C)C=1C(=C(C=CC1)NC1=C(C(=O)NN)C=CC=C1)Cl)O | C17H19ClN4O3
reactant | triethylamine | 8.1 mmoles, 0.81 g | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[1-[3-[[2-(4,5-dihydro-5-oxo-1,3,4-oxadiazol-2-yl) phenyl]amino]-2-chlorophenyl]ethyl] -N-hydroxyacetamide | 0.27 g, 18% | O=C1NN=C(O1)C1=C(C=CC=C1)NC=1C(=C(C=CC1)C(C)N(C(C)=O)O)Cl | C18H17ClN4O4
